US04886814
N-[2-(4-(2-Carbomethoxy-1-methylethenyl)phenyl)-1-methylethyl]-2-hydroxy-2-(2-methyl-thiazol-4-yl)ethanamine
Prepared analogously to Example 13 by reaction of 2-hydroxy-2-(2-methyl-thiazol-4-yl)ethanamine with 1-[4-(2-carbomethoxy-1-methylethenyl)phenyl]propan-2-one followed by purification of the base on a silica gel column using toluene/methanol=19:1 as eluant.

reactant | 2-hydroxy-2-(2-methyl-thiazol-4-yl)ethanamine | OC(CN)C=1N=C(SC1)C | C6H10N2OS
reactant | 1-[4-(2-carbomethoxy-1-methylethenyl)phenyl]propan-2-one | C(=O)(OC)C=C(C)C1=CC=C(C=C1)CC(C)=O | C14H16O3
product | N-[2-(4-(2-Carbomethoxy-1-methylethenyl)phenyl)-1-methylethyl]-2-hydroxy-2-(2-methyl-thiazol-4-yl)ethanamine | C(=O)(OC)C=C(C)C1=CC=C(C=C1)CC(C)NCC(C=1N=C(SC1)C)O | C20H26N2O3S
